US04933355
5-[2-(Thiomorpholin-4-yl)thiazol-4-ylmethylene]rhodanine-3-acetic acid
The reaction described in Example 1 was repeated, but using 0.85 g of 2-(thiomorpholin-4-yl)thiazole-4-carbaldehyde, 0.76 g of rhodanine-3-acetic acid, 0.4 g of ammonium chloride, 0.4 ml of 28% v/v aqueous ammonia and 30 ml of ethanol, giving the title compound as yellow crystals.

reactant | 2-(thiomorpholin-4-yl)thiazole-4-carbaldehyde | 0.85 g | N1(CCSCC1)C=1SC=C(N1)C=O | C8H10N2OS2
reactant | rhodanine-3-acetic acid | 0.76 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.4 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-[2-(Thiomorpholin-4-yl)thiazol-4-ylmethylene]rhodanine-3-acetic acid | N1(CCSCC1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C13H13N3O3S4
